.title kicad schematic

.include LT1007.sub
v2 net-_x1-pad7_ gnd  dc 5
* u2 vout plot_v1
x1 net-_x1-pad1_ vout vin gnd net-_x1-pad5_ vout net-_x1-pad7_ net-_x1-pad8_ LT1007
* u1 vin plot_v1
vv1 vin gnd sin(2.5 1.0 1k)
.tran 1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(vin)
.endc
.end
